US07544812B2
5-Hydantoin acetic acid (20.57 g, 0.130 mol) in MeOH (210 mL) was treated with conc. H2SO4 (7 mL) and heated to reflux under N2 for 2.5 h. The resultant clear solution was cooled and the solvent removed in vacuo to give an oil which was diluted with water (65 mL) and extracted 4 times with EtOAc. The organic layer was dried (MgSO4) and the solvent removed in vacuo to afford 19.81 g (88%) of (2,5-dioxo-imidazolidin-4-yl)-acetic acid methyl ester. MS (ES+) Calc'd for C6H9N2O4 (M+1) 173. Found m/z 173 (100%). 1H NMR.

reactant | 5-Hydantoin acetic acid | 0.130 mol, 20.57 g | N1C(=O)NC(=O)C1CC(=O)O | C5H6N2O4
reactant | H2SO4 | 7 mL | OS(=O)(=O)O | H2O4S
reactant | MeOH | 210 mL | CO | CH4O
solvent | water | 65 mL | O | H2O
product | (2,5-dioxo-imidazolidin-4-yl)-acetic acid methyl ester | 19.81 g, 88% | COC(CC1NC(NC1=O)=O)=O | C6H8N2O4
